US06734180B1
4-[5-[(E)-2-(4-methylphenyl)ethenyl]indan-2-yl]amino-5-methylthieno[2,3-d]pyrimidine
Using 2-amino-5-[(E)-2-(4-methylphenyl)ethenyl]indan hydrochloride (16 mg, 0.06 mmol), ethanol (0.6 ml), triethylamine (50 μl, 0.36 mmol), and 4-chloro-5-methylthieno[2,3-d]pyrimidine (11 mg, 0.060 mmol), a similar procedure to b) in Example 19 was carried out. The product obtained was purified by silica gel chromatography (hexane:ethyl acetate=4:1) to obtain the title compound (14 mg, 0.035 mmol) having the following physical properties:

reactant | 2-amino-5-[(E)-2-(4-methylphenyl)ethenyl]indan hydrochloride | 0.06 mmol, 16 mg | Cl.NC1CC2=CC=C(C=C2C1)\C=C\C1=CC=C(C=C1)C
reactant | triethylamine | 0.36 mmol, 50 μl | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-5-methylthieno[2,3-d]pyrimidine | 0.060 mmol, 11 mg | ClC=1C2=C(N=CN1)SC=C2C | C7H5ClN2S
solvent | ethanol | 0.6 ml | C(C)O | C2H6O
product | 4-[5-[(E)-2-(4-methylphenyl)ethenyl]indan-2-yl]amino-5-methylthieno[2,3-d]pyrimidine | 0.035 mmol, 14 mg | CC1=CC=C(C=C1)/C=C/C=1C=C2CC(CC2=CC1)NC=1C2=C(N=CN1)SC=C2C | C25H23N3S
